US06077850
A solution of 5-iodosalicylic acid (25.0 g, 94.6 mmol) in tetrahydrofuran (500 mL) was cooled to 0° C. With vigorous mixing, borane-methyl sulfide complex (15.1 ml of 10 M solution, 151.0 mmol) was added dropwise over 0.25 hours. The solution was warmed to room temperature and then heated at reflux for 4 h. A white precipitate formed during the reflux. The solution was cooled to room temperature and 10% aqueous hydrochloric acid (100 mL) was added over 15 min and the solution stirred at room temperature for 2 h. The precipitate dissolved and the solvent was concentrated in vacuo to a volume of approximately 200 mL. The solution was poured into ethyl acetate (300 mL) and washed with water (2×200 mL), saturated sodium bicarbonate (2×200 mL), and saturated ammonium chloride (2×200 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo. The 2-hydroxy-5-iodobenzyl alcohol was isolated as a white solid (21.3 g, 85.2 mmol) from hexanes. (90% yield): mp 105-110° C. 1H NMR (CDCl3 /300 MHz) 8.21 (s, 1H), 7.30-7.33 (M, 2H), 6.57 (d, 1H, J=8.3 Hz), 4.97 (bs, 1H), 4.62 (s, 2H). EIHRMS m/z=249.9492 (M+, Calc'd 249.9491).

reactant | 5-iodosalicylic acid | 94.6 mmol, 25.0 g | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 2-hydroxy-5-iodobenzyl alcohol | 90% yield | OC1=C(CO)C=C(C=C1)I | C7H7IO2
